US06573293B2
5-(5-Chloro-2-oxo-1,2-dihydroindol-3-ylidenemethyl)-4-methyl-1H-pyrrole-2-carboxylic Acid Ethyl Ester
5-Chloro-1,3-dihydroindol-2-one (2.22 g, 13.2 mmol) was condensed with 5-formyl-4-methyl-1H-pyrrole-2-carboxylic acid ethyl ester (2.43 g) using method E to give 4.1 g (94%) of the title compound as an orange solid.

reactant | 5-Chloro-1,3-dihydroindol-2-one | 13.2 mmol, 2.22 g | ClC=1C=C2CC(NC2=CC1)=O | C8H6ClNO
reactant | 5-formyl-4-methyl-1H-pyrrole-2-carboxylic acid ethyl ester | 2.43 g | C(C)OC(=O)C=1NC(=C(C1)C)C=O | C9H11NO3
product | 5-(5-Chloro-2-oxo-1,2-dihydroindol-3-ylidenemethyl)-4-methyl-1H-pyrrole-2-carboxylic Acid Ethyl Ester | 4.1 g, 94% | C(C)OC(=O)C=1NC(=C(C1)C)C=C1C(NC2=CC=C(C=C12)Cl)=O | C17H15ClN2O3
